US08445684B2
To a mixture of 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(R)-pyrrolidinyl]methoxy]pyridine (125 mg, 350 μmol) and 4-(4-phenylbutyl)piperidine (83.4 mg, 384 μmol, 1.1 equiv.) in anhydrous toluene (2 mL) were added successively potassium tert-butoxide (64 mg, 0.52 mmol, 1.5 equiv.), tris(dibenzylideneacetone)dipalladium(0) (6.4 mg, 7.0 μmol, 0.02 equiv.), and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos; 12.1 mg, 21 μmol, 55 mequiv.). The mixture was degassed and purged with Ar (3 cycles), then warmed by microwave irradiation under Ar. After reaction for 30-40 minutes at 130° C., the mixture was cooled to room temperature, diluted with EtOAc, and washed with brine. The solution was dried over Na2SO4 and evaporated, and the residue was purified by CC on SiO2 with CH2Cl2/EtOAc 3:2. 3-[[1-(tert-Butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[4-(4-phenylbutyl)-1-piperidinyl]pyridine (128 mg, 74%) was obtained as a pale yellow oil.

reactant | 3-bromo-5-[[1-(tert-butoxycarbonyl)-2(R)-pyrrolidinyl]methoxy]pyridine | 350 μmol, 125 mg | BrC=1C=NC=C(C1)OC[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C15H21BrN2O3
reactant | 4-(4-phenylbutyl)piperidine | 384 μmol, 83.4 mg, 1.1 equiv. | C1(=CC=CC=C1)CCCCC1CCNCC1 | C15H23N
reactant | potassium tert-butoxide | 0.52 mmol, 64 mg, 1.5 equiv. | CC(C)([O-])C.[K+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 7.0 μmol, 6.4 mg, 0.02 equiv. | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 21 μmol, 12.1 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 3-[[1-(tert-Butoxycarbonyl)-2(S)-pyrrolidinyl]methoxy]-5-[4-(4-phenylbutyl)-1-piperidinyl]pyridine | 128 mg, 74% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC=1C=NC=C(C1)N1CCC(CC1)CCCCC1=CC=CC=C1 | C30H43N3O3
